US05773469
4-(3,3-DIPHENYLPROPOXY)BROMOBENZENE
A mixture of 4-bromophenol (1.73 g, 10 mmol), 1-methanesulphonyloxy-3, 3-diphenylpropane (3.05 g, 10 mmol) and anhydrous potassium carbonate (2.07 g, 15 mmol) in acetonitrile (25 mL) is stirred and heated to reflux under nitrogen for 24 h. The reaction mixture is filtered, washed with acetone and the combined filtrate and washings are evaporated to dryness in vacuo. The residue is taken up in Et2O washed with successive portions of 5% aqueous NaOH and H2O, dried (Na2SO4), filtered and concentrated in vacuo to give an oily residue (3.8 g) which crystallizes upon standing: mp 70°-71° C.; 1H NMR (CDCl3) d 7.35-7.16 (m, 12H), 6.70 (d, 2H, J=8.98), 4.22 (t, 1H, J=7.9), 3.85 (t, 2H, J=6.), 2.54 (q, 2H). IR 1592, 1490, 1470, 1291 cm1 ; MS 366-368 (MH+, one Br); Anal. calc'd. for C21 H19Br O: C, 68.86, H, 4.95. Found C, 68.60, 5.18.

reactant | 4-bromophenol | 10 mmol, 1.73 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 1-methanesulphonyloxy-3, 3-diphenylpropane | 10 mmol, 3.05 g | CS(=O)(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H18O3S
reactant | potassium carbonate | 15 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 4-(3,3-DIPHENYLPROPOXY)BROMOBENZENE | 3.8 g | C1(=CC=CC=C1)C(CCOC1=CC=C(C=C1)Br)C1=CC=CC=C1 | C21H19BrO
